US08455488B2
Synthesis of tert-butyl (S)-6-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)amino)-5-(2-(1-methyl-2-(pyridin-4-ylmethylcarbamoyl)hydrazinyl)acetamido)-6-oxohexylcarbamate (Compound II-25)
According to the procedure described in the synthesis method of Compound II-15, 2-(1-methyl-2-(pyridin-4-ylmethylcarbamoyl)hydrazinyl)acetic acid (Compound VI-6) 69 mg (0.29 mmol) was coupled with tert-butyl (S)-5-amino-6-(((S)-1,1-diethoxypropan-2-yl)-(naphthalen-1-ylmethyl)amino)-6-oxohexylcarbamate (Compound IV-13) 100 mg (0.19 mmol) to obtain the title compound.

reactant | 2-(1-methyl-2-(pyridin-4-ylmethylcarbamoyl)hydrazinyl)acetic acid | 0.29 mmol, 69 mg | CN(NC(NCC1=CC=NC=C1)=O)CC(=O)O | C10H14N4O3
reactant | tert-butyl (S)-5-amino-6-(((S)-1,1-diethoxypropan-2-yl)-(naphthalen-1-ylmethyl)amino)-6-oxohexylcarbamate | 0.19 mmol, 100 mg | N[C@@H](CCCCNC(OC(C)(C)C)=O)C(=O)N(CC1=CC=CC2=CC=CC=C12)[C@H](C(OCC)OCC)C | C29H45N3O5
product | tert-butyl (S)-6-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)amino)-5-(2-(1-methyl-2-(pyridin-4-ylmethylcarbamoyl)hydrazinyl)acetamido)-6-oxohexylcarbamate | C(C)OC([C@H](C)N(C([C@H](CCCCNC(OC(C)(C)C)=O)NC(CN(NC(NCC1=CC=NC=C1)=O)C)=O)=O)CC1=CC=CC2=CC=CC=C12)OCC | C39H57N7O7
